US07144913B2
Step 1: 4,4,5,5-tetramethyl-2-(4-methylthien-3-yl)-1,3,2-dioxaborolane
To a solution of 3-bromo-4-methylthiophene (600 mg, 3.4 mmol) in DMF (12 mL) were added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (908 mg, 3.6 mmol), potassium acetate (1 g, 10.2 mmol) and dichloro[1,1′-bis-(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (73 mg, 0.1 mmol). The reaction mixture was degassed and stirred at 8° C. for 4 h, cooled and poured in brine. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by short silica gel chromatography eluted with 10% EtOAc/hexane to give 500 mg of the title compound used as such.

reactant | 3-bromo-4-methylthiophene | 3.4 mmol, 600 mg | BrC1=CSC=C1C | C5H5BrS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 3.6 mmol, 908 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 10.2 mmol, 1 g | C(C)(=O)[O-].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis-(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.1 mmol, 73 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4,4,5,5-tetramethyl-2-(4-methylthien-3-yl)-1,3,2-dioxaborolane | 500 mg | CC1(OB(OC1(C)C)C1=CSC=C1C)C | C11H17BO2S
